US04374272
Aniline (18.6 g) and 34.4 g of the same mixture of alkenylphenols and phenol as used in Example 7 were stirred at 150° C. (2 moles of aniline per mole of the p-isopropenyl phenol monomeric unit). Then, 0.0065 g of aniline hydrochloride (0.0005 mole of catalyst per mole of the p-isopropenyl phenol monomeric unit) was added as a catalyst, and the reaction was performed for 3 hours. After the reaction, the reaction mixture was analyzed by gas chromatography. It was found that 19.7 g (yield 87%) of 2-(4'-hydroxyphenyl)-2-(4'-aminophenyl)-propane and 0.24 g of bisphenol A were formed.

reactant | Aniline | 18.6 g | NC1=CC=CC=C1 | C6H7N
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | aniline | 2 moles | NC1=CC=CC=C1 | C6H7N
reactant | p-isopropenyl phenol | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
catalyst | aniline hydrochloride | 0.0065 g | Cl.NC1=CC=CC=C1
product | 2-(4'-hydroxyphenyl)-2-(4'-aminophenyl)-propane | 19.7 g, yield 87% | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)N | C15H17NO
